US06924278B2
A solution of 3-[3-(tert-butoxycarbonylamino)benzyl]-2,5-piperazinedione. (0.75 g) in trifluoroacetic acid (10 ml) was stirred for 4 hours at room temperature. After removal of the solvent by evaporation, the residue was dissolved in a mixture of dichloromethane (10 ml) and methanol (3 ml) and thereto benzaldehyde (0.742 g) and sodium triacetoxyborohydride (2.11 g) were added. The whole was stirred for 2 hours at room temperature and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of dichloromethane and methanol (25:1). The fractions containing the objective compound were collected and triturated with isopropyl alcohol to give 2-[3-(benzylamino)benzyl]-3,6-piperazinedione (0.43 g) as colorless crystals.

reactant | 3-[3-(tert-butoxycarbonylamino)benzyl]-2,5-piperazinedione | C(C)(C)(C)OC(=O)NC=1C=C(CC2C(NCC(N2)=O)=O)C=CC1 | C16H21N3O4
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[3-(benzylamino)benzyl]-3,6-piperazinedione | 0.43 g | C(C1=CC=CC=C1)NC=1C=C(CC2NC(CNC2=O)=O)C=CC1 | C18H19N3O2
